US08859773B2
Step 1. methyl 3-cyano-1H-indazole-5-carboxylate
Methyl 3-iodo-1H-indazole-5-carboxylate (30.7 g, 102 mmol), zinc cyanide (20.3 g, 173 mmol), zinc dust (4.05 g, 61.9 mmol), [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II), complex with dichloromethane (12 g, 15 mmol), and copper (I) iodide (19.7 g, 103 mmol) were combined in a 1 L round bottom flask. N,N-dimethylacetamide (500 mL) was added and the reaction mixture was purged with nitrogen for 10 minutes. The reaction was heated to 120° C. for 1 hour. The reaction was cooled to room temperature and was diluted with ethyl acetate (1 L), and allowed to stir for 20 minutes. The reaction mixture was filtered through a plug of Celite, rinsing with 500 mL ethyl acetate. The filtrate was added to a solution of saturated ammonium chloride and concentrated ammonium hydroxide (2 L) (prepared by adding ammonium hydroxide to a saturated aqueous solution of ammonium chloride until pH=8) and the biphasic solution was stirred vigorously for 1 hour. The resulting emulsion was filtered through a small pad of Celite. The layers were separated and the aqueous was extracted two additional times with ethyl acetate (1100 mL), each time filtering the resulting emulsion through Celite. The combined organic layers were washed with water (2×900 mL) and brine (900 mL), dried over sodium sulfate, filtered and concentrated. To the crude was added methanol (100 mL) and the mixture was stirred for 20 minutes. The resulting precipitate was filtered off and washed with methanol (10 mL). The filtrate was concentrated to give the title compound (13.2 g, 65%) as a solid. −ESI (M−H) 200.0; 1H NMR (400 MHz, DMSO-d6, δ): 8.43-8.45 (m, 1H), 8.05 (dd, J=8.8, 1.6 Hz, 1H), 7.85 (dd, J=8.9, 0.9 Hz, 1H), 3.88 (s, 3H).

reactant | Methyl 3-iodo-1H-indazole-5-carboxylate | 102 mmol, 30.7 g | IC1=NNC2=CC=C(C=C12)C(=O)OC | C9H7IN2O2
reactant | dichloromethane | 15 mmol, 12 g | ClCCl | CH2Cl2
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | zinc cyanide | 173 mmol, 20.3 g | [C-]#N.[Zn+2].[C-]#N
catalyst | zinc | 61.9 mmol, 4.05 g | [Zn] | Zn
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | copper (I) iodide | 103 mmol, 19.7 g | [Cu]I
solvent | N,N-dimethylacetamide | 500 mL | CN(C(C)=O)C | C4H9NO
product | methyl 3-cyano-1H-indazole-5-carboxylate | 13.2 g, 65% | C(#N)C1=NNC2=CC=C(C=C12)C(=O)OC | C10H7N3O2
